US07105567B2
To a solution of [(1-benzylpyrazol-4-yl)methyl](4-isopropylphenyl)amine (0.17 g) in toluene (5 mL) was added 2,6-diisopropylphenyl isocyanate (0.12 mL) and the mixture was stirred overnight at room temperature. The reaction mixture was washed with saturated brine and dried over magnesium sulfate. The solvent was evaporated under reduced pressure and the residue was purified by silica gel column chromatography to give N-[(1-benzylpyrazol-4-yl)methyl]-N′-(2,6-diisopropylphenyl)-N-(isopropylphenyl)urea (0.24 g).

reactant | [(1-benzylpyrazol-4-yl)methyl](4-isopropylphenyl)amine | 0.17 g | C(C1=CC=CC=C1)N1N=CC(=C1)CNC1=CC=C(C=C1)C(C)C | C20H23N3
reactant | 2,6-diisopropylphenyl isocyanate | 0.12 mL | C(C)(C)C1=C(C(=CC=C1)C(C)C)N=C=O | C13H17NO
reactant | toluene | 5 mL | C1(=CC=CC=C1)C | C7H8
product | N-[(1-benzylpyrazol-4-yl)methyl]-N′-(2,6-diisopropylphenyl)-N-(isopropylphenyl)urea | 0.24 g | C(C1=CC=CC=C1)N1N=CC(=C1)CN(C(=O)NC1=C(C=CC=C1C(C)C)C(C)C)C1=C(C=CC=C1)C(C)C | C33H40N4O
